US06156782
5-Amino-4-(2-bromofuran-3-yl)-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole
To a solution of 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(furan-3-yl)pyrazole (0.600 g) in tetrahydrofuran (20 ml) was added N-bromosuccinimide (0.288 g). The mixture was left at room temperature for 2 hours and then poured onto a column of silica gel (30 g) and eluted with hexane:dichloromethane (1:1). Combination and evaporation of suitable fractions gave a red oil which was further purified by column chromatography on silica gel (30 g) eluted with hexane:dichloromethane (1:1), then dichloromethane. Combination and evaporation of suitable fractions gave the title compound as a white solid.

reactant | 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(furan-3-yl)pyrazole | 0.600 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)C1=COC=C1 | C15H7Cl2F3N4O
reactant | N-bromosuccinimide | 0.288 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 5-Amino-4-(2-bromofuran-3-yl)-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)C1=C(OC=C1)Br | C15H6BrCl2F3N4O
